US08212041B2
3) Preparation of (6-(3-methylisothiazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methanamine
Trifluoroacetic acid (2889 μl, 37505 μmol) was added to a stirred suspension of tert-butyl (6-(3-methylisothiazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate (464 mg, 1339 μmol) in DCM (10 mL) at RT. The reaction mixture was stirred at RT for 45 min. and then concentrated in vacuo. 2M NH3 in MeOH was added. Purification by MPLC (DCM/MeOH+1% NH4OH) afforded the title compound (226 mg, 69% yield). MS m/z=247.1 [M+H]+. Calc'd for C10H10N6S: 246.30.

reactant | Trifluoroacetic acid | 37505 μmol, 2889 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl (6-(3-methylisothiazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate | 1339 μmol, 464 mg | CC1=NSC(=C1)C=1C=CC=2N(N1)C(=NN2)CNC(OC(C)(C)C)=O | C15H18N6O2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (6-(3-methylisothiazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methanamine | 226 mg, 69% yield | CC1=NSC(=C1)C=1C=CC=2N(N1)C(=NN2)CN | C10H10N6S
